US06518268B1
N,N-diphenylbenzylamine (935 mg, 3.60 mmol) was suspended in acetic acid (20 mL), and hexamethylenetriamine (1.12 g, 7.96 mmol) was added thereto, followed by stirring at 90° C. for 12 hours. The reaction liquid was cooled to room temperature, a 6 mol/L sodium hydroxide aqueous solution and water were added thereto, and then the product was extracted with chloroform. The organic layer was washed with brine, and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (elution solvent: hexane/ethyl acetate=20/1→10/1), to obtain 4-(N-phenylbenzylamino)benzaldehyde (742 mg, 72%).

reactant | N,N-diphenylbenzylamine | 3.60 mmol, 935 mg | C1(=CC=CC=C1)N(C1=CC=CC=C1)CC1=CC=CC=C1 | C19H17N
reactant | sodium hydroxide | 6 mol/L | [OH-].[Na+]
reactant | water | O | H2O
reactant | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 4-(N-phenylbenzylamino)benzaldehyde | 742 mg, 72% | C1(=CC=CC=C1)N(C1=CC=C(C=O)C=C1)CC1=CC=CC=C1 | C20H17NO
